US08487108B2
To a solution of (R)-tert-butyl 3-((R)-(2-aminoethoxy)(3-chloro-5-fluorophenyl)methyl)piperidine-1-carboxylate (1.1 g, 2.85 mmol) in dry CH2Cl2 (20 mL), Et3N (2 mL) was added. The resulting mixture was cooled to 0-5° C. under ice-water bath, a solution of ethyl chloroformate (615 mg, 5.7 mmol) in dry CH2Cl2 (2 mL) was added dropwise. After addition, the reaction mixture was stirred for 1-2 hr at rt. Water (20 mL) was added to quench the reaction. The aqueous layer was extracted with CH2Cl2 (3×20 mL), the combined organic layers were dried over Na2SO4, filtered and concentrated to give the crude (R)-tert-butyl 3-((R)-(3-chloro-5-fluorophenyl)(2-(ethoxycarbonylamino)ethoxy)methyl)piperidine-1-carboxylate (1.3 mg, 100%). 1H NMR (CD3OD, 400 MHz) δ 7.01 (d, 2H), 6.87 (d, 1H), 4.32 (m, 2H), 4.09 (m, 2H), 3.92 (m, 2H), 3.33 (m, 5H), 1.75 (s, 1H), 1.55 (m, 1H), 1.43 (s, 9H), 1.34 (m, 2H), 1.23 (t, 3H), 1.09 (t, 1H).

reactant | (R)-tert-butyl 3-((R)-(2-aminoethoxy)(3-chloro-5-fluorophenyl)methyl)piperidine-1-carboxylate | 2.85 mmol, 1.1 g | NCCO[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=CC(=CC(=C1)F)Cl | C19H28ClFN2O3
reactant | ethyl chloroformate | 5.7 mmol, 615 mg | ClC(=O)OCC | C3H5ClO2
reactant | Water | 20 mL | O | H2O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | Et3N | 2 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (R)-tert-butyl 3-((R)-(3-chloro-5-fluorophenyl)(2-(ethoxycarbonylamino)ethoxy)methyl)piperidine-1-carboxylate | 1.3 mg, 100% | ClC=1C=C(C=C(C1)F)[C@@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)OCCNC(=O)OCC | C22H32ClFN2O5
